US07109219B2
N1-Propyl-5-(2-(pyrrolidin-1-ylcarbonyl)amino-4-pyridyl)oxy-1H-1-indolecarboxamide
N1-Propyl-5-(2-amino-4-pyridyl)oxy-1H-1-indolecarboxamide (477 mg, 1.54 mmol) was suspended in tetrahydrofuran (5 ml) at room temperature; triethylamine (0.536 mg, 3.08 mmol) and phenyl chloroformate (0.389 ml, 3.85 mmol) was added thereto while stirring; and the reaction mixture was stirred at room temperature for 2 hours. Water was added to the reaction mixture; this was subjected to extraction with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. N,N-dimethylformamide (3 ml) and pyrrolidine (0.27 ml, 3.23 mmol) was added to the residue; and the reaction mixture was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water; and the organic layer was dried over anhydrous sodium sulfate. The solution was concentrated under reduced pressure; the residue was purified by silica gel column chromatography (Fuji Silysia NH, ethyl acetate-methanol). The resultant was washed with a solvent mixture of ether:hexane=1:1; and the solid was filtered off to yield crystals (40 mg) of the title compound.

reactant | N1-Propyl-5-(2-amino-4-pyridyl)oxy-1H-1-indolecarboxamide | 1.54 mmol, 477 mg | C(CC)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C17H18N4O2
reactant | triethylamine | 3.08 mmol, 0.536 mg | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 3.85 mmol, 0.389 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyrrolidine | 3.23 mmol, 0.27 ml | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N1-Propyl-5-(2-(pyrrolidin-1-ylcarbonyl)amino-4-pyridyl)oxy-1H-1-indolecarboxamide | 40 mg | C(CC)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)N1CCCC1 | C22H25N5O3
